US07384950B2
a) Methyl 1,2,3,4-tetrahydro-3,6-dimethyl-1-(isobutyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate
6-Mercapto-3-methyl-1-(isobutyl)-pyrimidine-2,4(1H,3H)-dione (50 g) was dissolved in a solution of sodium acetate (95.6 g) in water (1.5 L), and methyl 3-bromo-2-oxo-butanoate (44.6 g) was added dropwise with stirring. After stirring 1 h at room temperature the mixture was extracted into ethyl acetate. The organic solution was washed with brine, dried (MgSO4) and evaporated to leave an oil. The oil (75.1 g) was dissolved in methylene chloride (800 ml) and cooled in an ice-bath under an atmosphere of nitrogen. With efficient stirring titanium tetrachloride (43.3 ml) was slowly added dropwise. The reaction mixture was stirred 1 h in the ice-bath and then 3 h at room temperature. The reaction mixture was poured slowly into vigorously stirred ice-water (2 L), and then the resulting suspension was extracted into methylene chloride. After drying, the organic solvent was removed in vacuo, and the residue was chromatographed (SiO2/1:1 ethyl acetate-isohexane) to afford the sub-title compound 42 g. Trituration with isohexane gave a white powder. δ 1HCDCl3—0.98(6H,d), 2.23-2.41 (1H,m), 2.46 (3H,s), 3.4 (3H,s), 3.75 (2H,d), 3.96 (3H,s).

reactant | 6-Mercapto-3-methyl-1-(isobutyl)-pyrimidine-2,4(1H,3H)-dione | 50 g | SC1=CC(N(C(N1CC(C)C)=O)C)=O | C9H14N2O2S
reactant | methyl 3-bromo-2-oxo-butanoate | 44.6 g | BrC(C(C(=O)OC)=O)C | C5H7BrO3
solvent | sodium acetate | 95.6 g | C(C)(=O)[O-].[Na+]
solvent | water | 1.5 L | O | H2O
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 43.3 ml | [Ti](Cl)(Cl)(Cl)Cl
product | Methyl 1,2,3,4-tetrahydro-3,6-dimethyl-1-(isobutyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate | 42 g | CN1C(N(C2=C(C1=O)C(=C(S2)C)C(=O)OC)CC(C)C)=O | C14H18N2O4S
